US04224341
Methyl 5-benzoyl-indan-2-carboxylate
In a 250 cm3 reaction vessel fitted with a stirrer, a cooler, a dropping funnel and a thermometer, is placed 23.2 g (0.173 mole) of anhydrous aluminum chloride in suspension in 40 ml of methylene chloride. 35.3 g (0.252 mole) of benzoyl chloride dissolved in 40 cm3 of methylene chloride is then slowly added at ambient temperature. The aluminum chloride tends to pass into solution while the temperature gradually rises several degrees. The mixture is cooled to hold the temperature close to 20° C. and a solution of 11.1 g (0.063 mole) of methyl indane-2-carboxylate dissolved in 50 cm3 of methylene chloride is added. The temperature gradually rises during the course of the addition and the mixture turns a light brown color. The mixture is stirred for one hour at ambient temperature and is then heated to reflux for 3 hours. After cooling, the mixture is poured into acidified iced water and the resulting mixture is extracted with chloroform. The chloroform extract is then washed with water containing caustic soda, then with slightly acidified water and finally with water. It is dried over anhydrous sodium sulphate. The product is then filtered and the filtrate concentrated to an oily residue which is distilled and a fraction is collected boiling at 178°-184° C. at 0.6 to 0.8 torr.

reactant | aluminum chloride | 0.173 mole, 23.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzoyl chloride | 0.252 mole, 35.3 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | methyl indane-2-carboxylate | 0.063 mole, 11.1 g | C1C(CC2=CC=CC=C12)C(=O)OC | C11H12O2
reactant | water | O | H2O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 cm3 | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 cm3 | C(Cl)Cl | CH2Cl2
product | Methyl 5-benzoyl-indan-2-carboxylate | C(C1=CC=CC=C1)(=O)C=1C=C2CC(CC2=CC1)C(=O)OC | C18H16O3
